US07297715B2
Step E: 6-Chloro-2,2-dimethyl-4-(trifluoromethyl)-2H-chromen-7-ol
To a solution of 6-chloro-7-hydroxy-4-(trifluoromethyl)-2H-chromen-2-one (1.5 g, 5.68 mmol) in anhydrous THF (25 mL) was added at 0° C. a solution of methyl magnesium chloride in THF (9.48 mL of 3 mol solution). After stirring at 0° C. for 1 h, the reaction was quenched with sat.NH4Cl aq. The organic layer was separated, washed with water, dried over anhydrous Na2SO4 and concentrated to provide the crude product. This was dissolved in toluene (50 mL) and to this was added p-toluenesulfonic acid (40 mg) and the solution was kept at reflux for 1 h with the azeotropic removal of water using Dean-Stark apparatus. The solution washed once with water, dried over anhydrous Na2SO4 and concentrated to give brownish residue which was subjected to purification over silica gel using AcOEt/hexanes to provide the desired product (1.3 g, 83%).

reactant | 6-chloro-7-hydroxy-4-(trifluoromethyl)-2H-chromen-2-one | 5.68 mmol, 1.5 g | ClC=1C=C2C(=CC(OC2=CC1O)=O)C(F)(F)F | C10H4ClF3O3
reactant | methyl magnesium chloride | C[Mg]Cl
reactant | water | O | H2O
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | THF | 3 mol, 9.48 mL | C1CCOC1 | C4H8O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 40 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 6-Chloro-2,2-dimethyl-4-(trifluoromethyl)-2H-chromen-7-ol | 1.3 g, 83% | ClC=1C=C2C(=CC(OC2=CC1O)(C)C)C(F)(F)F | C12H10ClF3O2
